US06107291
Preparation of 1-(4-Methoxy-benzenesulfonyl)-3-(3-phenylpropionylamino)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid
1-(4-Methoxy-benzenesulfonyl)-3-(3-phenylpropionyl amino)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester (22 mg, 0.04 mmol) is reacted in the same manner as 1-(4-Methoxybenzenesulfonyl)-3-phenethyl carbamoyl-azepane-2-carboxylic acid tert-butyl ester and purified by flash-chromatography, Dichloromethane/Methanol (9:1) to afford the acid: Cal. 457.5 found (M-H)+ 456.6; 1H NMR (DMSO, 400 MHz), ppm: 7.78 (d, 2H), 7.28 (m, 2H), 7.20 (m, 3H), 7.01 (d, 2H), 5.6 (m, 1H), 5.5 (m, 1H), 4.3 (m, 3H), 4.0 (m, 1H), 3.82 (s, 3H), 2.8 (t, 2H), 2.35 (m, 2H), 2.05 (m, 2H).

reactant | 1-(4-Methoxy-benzenesulfonyl)-3-(3-phenylpropionyl amino)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester | 0.04 mmol, 22 mg | C(C)(C)(C)OC(=O)C1N(CC=CCC1NC(CCC1=CC=CC=C1)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C27H34N2O6S
reactant | 1-(4-Methoxybenzenesulfonyl)-3-phenethyl carbamoyl-azepane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(N(CCCCC1CCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)C(N)=O | C27H36N2O6S
product | 1-(4-Methoxy-benzenesulfonyl)-3-(3-phenylpropionylamino)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1C(C(CC=CC1)NC(CCC1=CC=CC=C1)=O)C(=O)O | C23H26N2O6S
